US07576091B2
2-Methyl-7-oxo-4, 5, 6, 7-tetrahydro-benzothiazole-6-carbaldehyde
To a suspension of hexane-washed NaH (1.1 g, 44.8 mmol) in dry Et2O (70 mL) was added dry MeOH (6.1 mL). After evolution of H2 had subsided, freshly distilled ethyl formate (7.3 mL, 6.7 g, 89.7 mmol) was added, followed by 2-methyl-5,6-dihydro-4H-benzothiazol-7-one (3.0 g, 17.9 mmol) in dry Et2O (12 mL). The reaction mixture was stirred at room temperature for 16 h. 10% aq HCl solution was added (150 mL) and the product was extracted with EtOAc (5×150 mL). The combined organic extracts were dried, filtered, and concentrated under vacuum to leave a brown oily crude product. Purification by flash column chromatography (20% EtOAc:hexane) afforded the pure title product as a yellow solid (2.30 g, 66%): mp 107-108° C. Anal. RP-HPLC: tR 12.6 min (0-60% MeCN, purity 100%). 1H-NMR (CDCl3): δ 9.90 (s, CHO), 7.20 (s, 1H, CH), 2.91 (t, 2H, J 7.1, CH2), 2.67 (s, 3H, CH3), 2.58 (t, 2H, J 7.1, CH2). 13C-NMR (CDCl3): δ 198.6, 186.3, 174.2, 165.7, 162.6, 131.0, 108.4, 27.0, 24.5, 20.7. MS: (ESI−) m/z 193.98 (M−H)+.

reactant | NaH | 44.8 mmol, 1.1 g | [H-].[Na+]
reactant | ethyl formate | 89.7 mmol, 7.3 mL, 6.7 g | C(=O)OCC | C3H6O2
reactant | 2-methyl-5,6-dihydro-4H-benzothiazol-7-one | 17.9 mmol, 3.0 g | CC=1SC2=C(N1)CCCC2=O | C8H9NOS
reactant | HCl | Cl | ClH
solvent | Et2O | 70 mL | CCOCC | C4H10O
solvent | Et2O | 12 mL | CCOCC | C4H10O
solvent | MeOH | 6.1 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 2-Methyl-7-oxo-4, 5, 6, 7-tetrahydro-benzothiazole-6-carbaldehyde | 2.30 g, 66% | CC=1SC2=C(N1)CCC(C2=O)C=O | C9H9NO2S
